US07709481B2
10.5 g 6-Trifluoromethyl-thionicotinamide (derived from 6-Trifluoromethyl-nicotinic acid according to the method described for 5-Chloromethyl-4-methyl-2-(1-methyl-cyclohexyl)-oxazole and 5-Chloromethyl-2-(4,4-difluoro-cyclohexyl)-4-methoxymethyl-thiazole) and 10.0 g 2-Chloro-4-methoxy-3-oxo-butyric acid methyl ester were dissolved in 100 ml ethanol and heated under reflux overnight. The cooled reaction mixture was evaporated under reduced pressure and the resulting residue was purified by RP-HPLC to obtain 1.9 g 4-Methoxymethyl-2-(6-trifluoromethyl-pyridin-3-yl)-thiazole-5-carboxylic acid methyl ester.

reactant | 6-Trifluoromethyl-thionicotinamide | 10.5 g | FC(C1=NC=C(C(=S)N)C=C1)(F)F | C7H5F3N2S
reactant | 6-Trifluoromethyl-nicotinic acid | FC(C1=NC=C(C(=O)O)C=C1)(F)F | C7H4F3NO2
reactant | 5-Chloromethyl-4-methyl-2-(1-methyl-cyclohexyl)-oxazole | ClCC1=C(N=C(O1)C1(CCCCC1)C)C | C12H18ClNO
reactant | 5-Chloromethyl-2-(4,4-difluoro-cyclohexyl)-4-methoxymethyl-thiazole | ClCC1=C(N=C(S1)C1CCC(CC1)(F)F)COC | C12H16ClF2NOS
reactant | 2-Chloro-4-methoxy-3-oxo-butyric acid methyl ester | 10.0 g | COC(C(C(COC)=O)Cl)=O | C6H9ClO4
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-Methoxymethyl-2-(6-trifluoromethyl-pyridin-3-yl)-thiazole-5-carboxylic acid methyl ester | 1.9 g | COC(=O)C1=C(N=C(S1)C=1C=NC(=CC1)C(F)(F)F)COC | C13H11F3N2O3S
